US07169926B1
[3-(4-Amino-1-methyl-2-oxo-1,2-dihydro-[1,8]naphthyridin-3-ylcarbamoyl)-cyclohexyl]-carbamic acid benzyl ester (55 mg, 0.122 mmol) was dissolved in glacial acetic acid (1.32 g, 22.02 mmol) and heated at 120° C. for 15 h. After cooing to room temperature, the solvent was removed under reduced pressure and the crude product was purified by flash chromatography, eluting with 2% MeOH in CH2Cl2 to give 45 mg (85%) of [3-(5-methyl-4-oxo-4,5-dihydro-3H-1,3,5,6-tetraaza-cyclopenta[a]naphthalen-2-yl)-cyclohexyl]-carbamic acid benzyl ester as a white solid. 1H-NMR (CDCl3): δ 8.61 (m, 2H), 7.33 (m, 7H), 5.18 (m, 2H), 4.27 (m, 1H), 4.0 (s, 3H), 3.81 (m, 1H), 3.44 (m, 1H), 2.52 (m, 3H), 2.28 (m, 1H), 2.12 (m, 1H), 1.8 (m, 1H), 1.79 (m, 3H), 1.31 (m, 1H). MS: calculated for C24H25N5O3+H 432.2; found: 432.0.

reactant | [3-(4-Amino-1-methyl-2-oxo-1,2-dihydro-[1,8]naphthyridin-3-ylcarbamoyl)-cyclohexyl]-carbamic acid benzyl ester | 0.122 mmol, 55 mg | C(C1=CC=CC=C1)OC(NC1CC(CCC1)C(NC=1C(N(C2=NC=CC=C2C1N)C)=O)=O)=O | C24H27N5O4
reactant | acetic acid | 22.02 mmol, 1.32 g | C(C)(=O)O | C2H4O2
product | [3-(5-methyl-4-oxo-4,5-dihydro-3H-1,3,5,6-tetraaza-cyclopenta[a]naphthalen-2-yl)-cyclohexyl]-carbamic acid benzyl ester | 45 mg, 85% | C(C1=CC=CC=C1)OC(NC1CC(CCC1)C=1NC2=C(C3=CC=CN=C3N(C2=O)C)N1)=O | C24H25N5O3
